US05616721
Trifluoroacetic acid (24.47 g, 0.21M) was added dropwise over 0.5 hr under nitrogen to a stirred suspension of sodium azide (12.59 g, 0.19M) in 2,6lutidine (100 ml) at 8° to 12°. After stirring for 7 minutes ethyl cyanoformate (20.4 g, 0.20M) was added in one portion. The mixture was heated and stirred at 75° for 6 hours and then, after cooling, stirred at 20° for 16 hr. After cooling to 10° the mixture was added to ice (250 g) and 11 molar hydrochloric add (100 ml) keeping the temperature below 20°. The product was extracted into ethyl acetate (1×250, 1×200, 2×100 ml) and the combined extracts dried over magnesium sulphate. After evaporation of the solvent under reduced pressure the oily product (38.22 g) was taken up in ether (50 ml) and hexane (25 ml) added. Storage at 4° for 2-3 days produced crystalline ethyl-1H-tetrazole-5-carboxylate that was filtered off, washed with chilled ether, and air dried, 14.12 g (52.6% yield), m.p. 88°-93°.

reactant | Trifluoroacetic acid | 0.21M, 24.47 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium azide | 0.19M, 12.59 g | [N-]=[N+]=[N-].[Na+]
reactant | ethyl cyanoformate | 0.20M, 20.4 g | C(#N)C(=O)OCC | C4H5NO2
solvent | 2,6lutidine | 100 ml | N1=C(C=CC=C1C)C | C7H9N
product | ethyl-1H-tetrazole-5-carboxylate | 52.6% yield | C(C)OC(=O)C1=NN=NN1 | C4H6N4O2
